US05843957
Preparation of N-[1-butyl-4-[3-{(4-diethylamino-2-butynyl)oxy}phenyl]-1,2-dihydro-2-oxo-1,8-naphthyridin-3-yl]-N'-(2,6-diisopropylphenyl)urea
To a solution of N-[1-butyl-4-{3-(2-propynyloxy)phenyl}-1,2-dihydro-2-oxo-1,8-naphthyridin-3-yl]-N'-(2,6-diisopropylphenyl)urea (1.0 g, 1.82 mmol) in dioxane (10 ml) were added paraformaldehyde (0.37 g), diethylamine (0.26 g, 3.63 mmol) and copper (I) iodide, and the mixture was stirred at room temperature for two hours. To the mixture was added ether, and the mixture was filtered through a cerite pad. The filtrate was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (2% methanol in chloroform) to give the title compound (1.05 g, 1.65 mmol).

reactant | N-[1-butyl-4-{3-(2-propynyloxy)phenyl}-1,2-dihydro-2-oxo-1,8-naphthyridin-3-yl]-N'-(2,6-diisopropylphenyl)urea | 1.82 mmol, 1.0 g | C(CCC)N1C(C(=C(C2=CC=CN=C12)C1=CC(=CC=C1)OCC#C)NC(=O)NC1=C(C=CC=C1C(C)C)C(C)C)=O | C34H38N4O3
reactant | paraformaldehyde | 0.37 g | C=O | CH2O
reactant | diethylamine | 3.63 mmol, 0.26 g | C(C)NCC | C4H11N
reactant | ether | CCOCC | C4H10O
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
catalyst | copper (I) iodide | [Cu]I
product | N-[1-butyl-4-[3-{(4-diethylamino-2-butynyl)oxy}phenyl]-1,2-dihydro-2-oxo-1,8-naphthyridin-3-yl]-N'-(2,6-diisopropylphenyl)urea | 1.65 mmol, 1.05 g | C(CCC)N1C(C(=C(C2=CC=CN=C12)C1=CC(=CC=C1)OCC#CCN(CC)CC)NC(=O)NC1=C(C=CC=C1C(C)C)C(C)C)=O | C39H49N5O3
